US06897231B2
A. 2-(4-Fluorophenyl)-N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)acetamide
To a solution of 2-(4-fluorophenyl)acetic acid (0.102 g, 0.66 mmol) in 3.0 mL of dichloromethane, was added 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (EDCI) as a solid (0.140 g, 0.726 mmol). The solution was stirred a t room temperature for 10 min before 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine (0.200 g, 0.330 mmol), dissolved in 2 mL of dichloromethane was added. The reaction was stirred at room temperature overnight. The reaction mixture was then partitioned between dichloromethane and water. (Yield not calculated) ES-MS (m/z) 739 [M+H]+.

reactant | 2-(4-fluorophenyl)acetic acid | 0.66 mmol, 0.102 g | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 0.726 mmol, 0.140 g | Cl.CN(CCCN=C=NCC)C
reactant | 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine | 0.330 mmol, 0.200 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)N | C39H34N6O
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-(4-Fluorophenyl)-N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)acetamide | FC1=CC=C(C=C1)CC(=O)NC1=CC(=CC=C1)C1=NN(C2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCC1 | C47H39FN6O2
